US07214690B2
To a suspension of 5-benzyloxy-6-bromo-4-(trifluoromethyl)-1H-quinolin-2-one (11.7 g, 29.4 mmol) and CsF (17.8 g, 117 mmol) in 150 mL DMF was added isopropyl iodide (19.9 g, 117 mmol). After 28 h, the mixture was partitioned between EtOAc (500 mL) and water (250 mL) and the aqueous layer was extracted with EtOAc. The combined organic layers were washed with water (200 mL), brine (100 mL), dried over MgSO4, filtered and concentrated to afford 13 g (100%) of 5-benzyloxy-6-bromo-2-isopropoxy-4-(trifluoromethyl)quinoline. 1H NMR (400 MHz, CDCl3) δ 7.85 (d, 1H, J=9.0), 7.55–7.65 (m, 3H), 7.38–7.48 (m, 2H), 7.32–7.38 (m, 1H), 7.31 (s, 1H), 5.54 (sept, 1H, J=6.2), 5.06 (s, 2H), 1.42 (d, 6H, J=6.2).

reactant | 5-benzyloxy-6-bromo-4-(trifluoromethyl)-1H-quinolin-2-one | 29.4 mmol, 11.7 g | C(C1=CC=CC=C1)OC1=C2C(=CC(NC2=CC=C1Br)=O)C(F)(F)F | C17H11BrF3NO2
reactant | CsF | 117 mmol, 17.8 g | [F-].[Cs+]
reactant | isopropyl iodide | 117 mmol, 19.9 g | C(C)(C)I | C3H7I
solvent | DMF | 150 mL | CN(C)C=O | C3H7NO
product | 5-benzyloxy-6-bromo-2-isopropoxy-4-(trifluoromethyl)quinoline | 13 g, 100% | C(C1=CC=CC=C1)OC1=C2C(=CC(=NC2=CC=C1Br)OC(C)C)C(F)(F)F | C20H17BrF3NO2
